US07973040B2
Step 2: methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valyl-(4R)-4-[(7-methoxy-3-vinylquinoxalin-2-yl)oxy]-L-prolinate
A solution (0.1 M) of methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valyl-(4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]-L-prolinate in EtOH was treated with potassium trifluoro(vinyl)borate (1.5 eq) and triethylamine (1.5 eq). The resulting mixture was degassed, then PdCl2(dppf)-CH2Cl2 adduct (0.1 eq) was added. The mixture was heated under reflux for 1 h, then cooled to room temperature and diluted with H2O and EtOAc. The organic phase was separated, washed with H2O and brine then dried. Removal of the volatiles afforded a residue that was purified by flash chromatography (20-30% EtOAc/petroleum ether) to give the title compound as a yellow foam that was used directly in the subsequent step. MS (ES+) m/z 595 (M+H)+

reactant | methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valyl-(4R)-4-[(3-chloro-7-methoxyquinoxalin-2-yl)oxy]-L-prolinate | 0.1 M | CC([C@H](NC(=O)O[C@H]1[C@@H](C1)CCCC=C)C(=O)N1[C@H](C(=O)OC)C[C@H](C1)OC1=NC2=CC(=CC=C2N=C1Cl)OC)(C)C | C30H39ClN4O7
reactant | potassium trifluoro(vinyl)borate | 1.5 eq | [B-](C=C)(F)(F)F.[K+]
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | EtOH | CCO | C2H6O
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valyl-(4R)-4-[(7-methoxy-3-vinylquinoxalin-2-yl)oxy]-L-prolinate | CC([C@H](NC(=O)O[C@H]1[C@@H](C1)CCCC=C)C(=O)N1[C@H](C(=O)OC)C[C@H](C1)OC1=NC2=CC(=CC=C2N=C1C=C)OC)(C)C | C32H42N4O7
